US04159375
3-Methyl-7-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 5.1 g. of 3-hydrazino-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine and 60 ml. of ethyl orthoacetate is refluxed for 2.5 hours, cooled and the solid is collected by filtration and washed with hexane and ethanol, giving the desired product as yellow plates, m.p. 230°-233° C.

reactant | 3-hydrazino-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | N(N)C=1N=NC=C(N1)C=1C=C(C=CC1)C(F)(F)F | C10H8F3N5
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 3-Methyl-7-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine | CC1=NN=C2N1N=CC(=N2)C=2C=C(C=CC2)C(F)(F)F | C12H8F3N5
